US05665777
Step 2: 3-(4-phenylphenoxy)propanohydroxamic acid.
The desired compound was prepared according to the method of Example 1, step 3, except substituting 3-(4-phenylphenoxy)propionic acid, prepared as in step 1, for 3-(4-phenylphenoxy)butanoic acid. 1H NMR (DMSO-d6) δ 2.44 (t, 2H, J=7 Hz), 4.22 (t, 2H, J=7 Hz), 7.01 (d, 2H, J=6 Hz), 7.31 (t, 1H, J=5 Hz), 7.42 (t, 2H, J=5 Hz), 7.61 (m, 4H), 8.88 (bds, 1H, 10.53 (s, 1H). MS (DCI/NH3) 275 (M+NH4+, 100). Anal. Calcd for C15H15NO3 ·0.25 H2O: C, 68.82; H, 5.36; N, 5.70. Found: C, 68.78; H, 5.27; N, 5.18.

reactant | 3-(4-phenylphenoxy)propionic acid | C1(=CC=CC=C1)C1=CC=C(OCCC(=O)O)C=C1 | C15H14O3
reactant | 3-(4-phenylphenoxy)butanoic acid | C1(=CC=CC=C1)C1=CC=C(OC(CC(=O)O)C)C=C1 | C16H16O3
reactant | NH3 | N | H3N
product | 3-(4-phenylphenoxy)propanohydroxamic acid | C1(=CC=CC=C1)C1=CC=C(OCCC(=O)NO)C=C1 | C15H15NO3
